MM9 (VOUT1 net12 VSS VSS) nmos4
MM8 (net12 net12 VSS VSS) nmos4
MM7 (VOUT1 VIN2 net10 net14) pmos4
MM6 (net12 VIN1 net10 net14) pmos4
MM5 (net10 net1004 VDD VDD) pmos4
MM2 (VB1 VB1 VSS VSS) nmos4
MM10 (net1004 net1007 VSS VSS) nmos4
MM1 (VB1 net1004 VDD VDD) pmos4
MM0 (net1004 net1004 VDD VDD) pmos4
RR0 (net1007 VSS) resistor
MM2 (VB2 net12 net1007 VSS) nmos4
MM0 (net12 net1007 VSS VSS) nmos4
MM3 (VB2 VB2 VDD VDD) pmos4
MM1 (net12 VB2 VDD VDD) pmos4